US07544835B2
12.9 g of 4-Benzyl-3-(3-(3-benzyloxyphenyl)-3-hydroxy-2-isopropoxy propionyl]oxazolidin-2-one was dissolved in 30 ml of pyridine, and 3.06 ml of methanesulfonyl chloride was dropwise added thereto under ice-cooling. After stirring was continued at room temperature for 2 hours, the reaction solution was diluted with ethyl acetate and washed successively with 1N hydrochloric acid and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was concentrated, to give 3-(4(S)-benzyl-2-oxooxazolidin-3-yl)-1(R)-(3-benzyloxyphenyl)-2(S)-isopropoxy-3-oxopropyl methanesulfonate. This product was then dissolved in 300 ml of ethanol, and 2 g of 10% palladium carbon was added, and the mixture was stirred overnight under hydrogen atmosphere at room temperature. The reaction solution was filtered, and the filtrate was concentrated. The residue was diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate, The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column chromatography, to give 5.87 g of the title compound as a colorless oil in the 2:1→3:2 hexane-ethyl acetate fraction.

reactant | 4-Benzyl-3-(3-(3-benzyloxyphenyl)-3-hydroxy-2-isopropoxy propionyl]oxazolidin-2-one | 12.9 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1)OC(C)C)=O | C29H31NO6
reactant | methanesulfonyl chloride | 3.06 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4(S)-benzyl-2-oxooxazolidin-3-yl)-1(R)-(3-benzyloxyphenyl)-2(S)-isopropoxy-3-oxopropyl methanesulfonate | CS(=O)(=O)O[C@@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OC(C)C)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C30H33NO8S
